US04230480
a. Formation of 5-[1-(2-nitrophenoxy) ethyl]-2-amino-1,3,4-thiadiazole
A 100 milliliter, 3-neck flask adapted with a Claisen adaptor, paddle stirrer, thermometer, an addition funnel and condenser, was charged with 8.4 grams (0.040 moles) of 2-(2-nitrophenoxy)propanoic acid, (3.6 grams, 0.040 mole) of thiosemicarbazide and 30 ml. of dioxane. The slurry was heated to 90° centigrade and the addition funnel was charged with phosphorous oxychloride (POCl3). The POCl3 (6.7 grams, 0.044 mole) was slowly added (for 26 minutes) while maintaining the temperature within 90°-95° C., and then stirred for an additional 20 minutes. It was refluxed for 60 minutes and cooled. The flask was evacuated by using a water aspirator to remove volatiles (HCl, POCl3 and some dioxane), leaving a viscous gummy residue to which 50 ml. of water was added and the slurry was made basic by adding 50 percent solution of NaOH until the pH of the solution was 10, and a solid precipate formed. The solid precipate was filtered off, washed with water, dried in a vacuum oven at 80 degrees Centigrade to tan crystals, 5-(1-(2-nitrophenoxy) ethyl)-2-amino-1,3,4-thiadiazole. (Melting point 137-142 degrees Centigrade).

reactant | 2-(2-nitrophenoxy)propanoic acid | 0.040 moles, 8.4 grams | [N+](=O)([O-])C1=C(OC(C(=O)O)C)C=CC=C1 | C9H9NO5
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | POCl3 | 0.044 mole, 6.7 grams | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-[1-(2-nitrophenoxy) ethyl]-2-amino-1,3,4-thiadiazole | [N+](=O)([O-])C1=C(OC(C)C2=NN=C(S2)N)C=CC=C1 | C10H10N4O3S
